US07956069B2
(3aS,7aS)-3-[1-[1-(cyclopropanecarbonyl)-4-piperidyl]-4-piperidyl]-1-methyl-3a,4,5,6,7,7a-hexahydrobenzoimidazol-2-one
To a solution of (3aS,7aS)-1-(1,4′-bipiperidin-4-yl)-3-methyloctahydro-2H-benzimidazol-2-one. 2HCl (71 mg, 0.18 mmol) in DMF (4 mL) was added diisopropylethylamine (0.1 mL, 0.57 mmol) and cyclopropanecarboxylic acid (32 μL, 0.4 mmol) at room temperature, the mixture was sonicated to dissolve the starting materials and HATU (75 mg, 0.2 mmol) was then added. The reaction mixture was stirred at room temperature and the solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (60 mL), the mixture was washed with 1N NaOH (5 mL) and brine (5 mL) and then concentrated in vacuo. The crude product was then purified by high pH prep-LCMS to provide the title compound as a white solid, which was converted to its HCl salt (60 mg, 78%). 1H NMR (400 MHz, METHANOL-D4) δ ppm 0.72-0.95 (m, 4H), 1.24-1.53 (m, 6H), 1.61 (d, J=12.50 Hz, 1H), 1.70 (d, J=14.06 Hz, 1H), 1.79-2.02 (m, 7H), 2.03-2.12 (m, 1H), 2.21-2.38 (m, 3H), 2.50-2.65 (m, 2H), 2.65 (s, 3H), 2.87-2.98 (m, 1H), 2.99-3.12 (m, 2H), 3.14 (d, J=13.28 Hz, 1H), 3.34 (s, 1H), 3.51-3.73 (m, 1H), 4.40 (d, J=13.28 Hz, 1H), 4.56 (d, J=12.89 Hz, 1H). MS (M+1): 389.2.

reactant | diisopropylethylamine | 0.57 mmol, 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyclopropanecarboxylic acid | 0.4 mmol, 32 μL | C1(CC1)C(=O)O | C4H6O2
reactant | HATU | 0.2 mmol, 75 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (3aS,7aS)-3-[1-[1-(cyclopropanecarbonyl)-4-piperidyl]-4-piperidyl]-1-methyl-3a,4,5,6,7,7a-hexahydrobenzoimidazol-2-one | C1(CC1)C(=O)N1CCC(CC1)N1CCC(CC1)N1C(N([C@@H]2[C@@H]1CCCC2)C)=O | C22H36N4O2
